US08563565B2
(1) Synthesis of t-butyl 2-[(3RS,4SR)-4-hydroxytetrahydrofuran-3-yl]hydrazinecarboxylate
3,4-epoxytetrahydrofuran (3.33 mL) and t-butyl carbazate (6.14 g) were dissolved in 2-propanol (15 mL), and the solution was heated to 90° C. After three days, t-butyl carbazate (6.3 g) was further added. After heating with stirring for further two days, the reaction mixture was cooled to room temperature and concentrated under reduced pressure. Xylene was added to the residue, and the mixture was concentrated again under reduced pressure. The residue was partitioned by adding chloroform and brine. The organic layer was dried over anhydrous magnesium sulfate. The desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate/n-heptane, 50% to 100%) to give the title compound (5.78 g).

reactant | 3,4-epoxytetrahydrofuran | 3.33 mL | O1C2COCC21 | C4H6O2
reactant | t-butyl carbazate | 6.14 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | t-butyl carbazate | 6.3 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
solvent | 2-propanol | 15 mL | CC(C)O | C3H8O
product | t-butyl 2-[(3RS,4SR)-4-hydroxytetrahydrofuran-3-yl]hydrazinecarboxylate | 5.78 g | OC1C(COC1)NNC(=O)OC(C)(C)C | C9H18N2O4
